* C:\Users\shawn\OneDrive\ProjectGitReleases\Melanson-Tech-Isolated-Shunt-Amplifier\Simulation\Amplifer.asc
XU1 N009 N003 12v 0 N004 OPA197
V1 12v 0 12
V2 NC_01 0 6
R1 N004 N003 10K
R2 N003 N006 8.1K
R3 N009 N008 8.1K
R4 6v N009 10K
V3 N006 N008 PULSE(0 0.5 0 100n 100n 0.001 0.002) AC 1
XU2 N007 N001 12v 0 N002 OPA197
R5 N004 0 10k
R6 N007 N004 10k
R7 N002 N001 1410
C2 N002 N001 3.3n
C3 N004 N003 3p
C4 N009 6v 3p
R8 N002 0 10k
R9 N005 N002 50
C5 N005 6v 1n
XU3 N010 6v 12v 0 6v OPA197
R11 12v N010 100k
R12 N010 0 100k
C6 N010 0 100n
C7 6v 0 1n
C1 N007 6v 3p
R10 N001 6v 1410
R13 N007 6v 10k
.lib "C:\Users\shawn\OneDrive\Shawn\Circuit Studio\LtSpice SIM Models\OPAMPS\OPA197IDBVT\OPA197.LIB"
.tran 0.01
* .ac dec 1000 10 1meg
.backanno
.end
